US04426379
100 gm of 1-methylcyclopropanoic acid was added to 150 ml of diethyl ether. The system was cooled to 0°-5° C. and 119 gm of thionyl chloride was added dropwise over a period of time. After addition, the system was heated at reflux for 8 hours. The system was then cooled to 0°-5° C. and 62 gm of ethanethiol was added dropwise. The system was heated at reflux for 6 hours and then stirred at room temperature for 72 hours. The diethyl ether was removed by stripping to give the 1-methylcyclopropanoic acid ethyl ester.

reactant | 1-methylcyclopropanoic acid | 100 gm | CC1(CC1)C(=O)O | C5H8O2
reactant | thionyl chloride | 119 gm | S(=O)(Cl)Cl | Cl2OS
reactant | ethanethiol | 62 gm | C(C)S | C2H6S
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 1-methylcyclopropanoic acid ethyl ester | C(C)OC(=O)C1(CC1)C | C7H12O2
